US07323472B2
4-sec-Butylamino-6-(4-fluoro-2-methyl-phenyl)-2-methylsulfanyl-pyrimidine-5-carbaldehyde
Prepared as described above in Example 11 starting from 4-sec-butylamino-6-chloro-2-methylsulfanyl-pyrimidine-5-carbaldehyde and 4-fluoro-2-methylphenylboronic acid to give the title compound 4-sec-butylamino-6-(4-fluoro-2-methyl-phenyl)-2-methylsulfanyl-pyrimidine-5-carbaldehyde. 1H-NMR: δ 1.02 (m, 3H), 1.30 (m, 3H), 1.70 (m, 2H), 2.28 (m, 3H), 2.59 (s, 3H), 4.37 (m, 1H), 6.98 (m, 2H), 7.20 (m, 1H), 9.04 (br s, 1H), 9.50 (s, 1H). LC MS (m/e)=334 (MH+).

reactant | 4-sec-butylamino-6-chloro-2-methylsulfanyl-pyrimidine-5-carbaldehyde | C(C)(CC)NC1=NC(=NC(=C1C=O)Cl)SC | C10H14ClN3OS
reactant | 4-fluoro-2-methylphenylboronic acid | FC1=CC(=C(C=C1)B(O)O)C | C7H8BFO2
product | 4-sec-butylamino-6-(4-fluoro-2-methyl-phenyl)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | C(C)(CC)NC1=NC(=NC(=C1C=O)C1=C(C=C(C=C1)F)C)SC | C17H20FN3OS
